US06686381B2
{3-[4-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester
A mixture of 2.55 g (10.6 mmol) 3-Bromo-1-o-tolyl-propane-1,2-dione, 1.9 g (8.1 mmol) (3-thioureido-propyl)-carbamic acid tert-butyl ester and 5.66 ml (40.6 mmol) NEt3 in 100 ml methanol was heated to 80° C. for 2 h. The reaction mixture was evaporated under reduced pressure and the residue was purifier by flash column chromatography on silica eluting with a gradient of heptane and ethyl acetate. Evaporation of the product fractions yielded 2.17 g (71%) of the title compound as dark red oil.

reactant | 3-Bromo-1-o-tolyl-propane-1,2-dione | 10.6 mmol, 2.55 g | BrCC(C(=O)C1=C(C=CC=C1)C)=O | C10H9BrO2
reactant | (3-thioureido-propyl)-carbamic acid tert-butyl ester | 8.1 mmol, 1.9 g | C(C)(C)(C)OC(NCCCNC(=S)N)=O | C9H19N3O2S
reactant | NEt3 | 40.6 mmol, 5.66 ml | CCN(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | {3-[4-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester | 2.17 g, 71% | C(C)(C)(C)OC(NCCCNC=1SC=C(N1)C(C1=C(C=CC=C1)C)=O)=O | C19H25N3O3S
